US05932766
(+)-4-Amino-1-(N,N-dibenzyl)amino-1,5-diphenyl-2-oxo-pent-3-ene
The title compound was prepared from N,N-dibenzyl-glycine benzyl ester, 113 mmole, and 6.5 mL, 125 mmole of acetonitrile. Following the procedure described in Example 2 the ester and nitrile mixture was added to 9.8 g, 225 mmole of sodium amide in MTBE. After solvent removal, benzyl magnesium chloride (PhCH2MgCl 250 mmole) was added following the procedure in Example 2. The resulting enamine was purified by chromatography, following the procedure described in Example 4. The yield of enamine was 41 g (102 mmole, 90%).

reactant | N,N-dibenzyl-glycine benzyl ester | C(C1=CC=CC=C1)OC(CN(CC1=CC=CC=C1)CC1=CC=CC=C1)=O | C23H23NO2
reactant | acetonitrile | 125 mmole, 6.5 mL | C(C)#N | C2H3N
reactant | sodium amide | 225 mmole, 9.8 g | [NH2-].[Na+]
reactant | benzyl magnesium chloride | 250 mmole | C(C1=CC=CC=C1)[Mg]Cl
solvent | MTBE | CC(C)(C)OC | C5H12O
product | (+)-4-Amino-1-(N,N-dibenzyl)amino-1,5-diphenyl-2-oxo-pent-3-ene | NC(=CC(C(C1=CC=CC=C1)N(CC1=CC=CC=C1)CC1=CC=CC=C1)=O)CC1=CC=CC=C1 | C31H30N2O
